US07456156B2
Step 1. Synthesis of 4-acetyl-3-fluorophenylboronic acid (1)
An oven-dried, 3-liter, 3-necked, round-bottomed flask (fitted with a nitrogen inlet, addition funnel, and overhead stirrer) was charged with 50 grams (0.25 mole) of 4-cyano-3-fluorophenyl bromide. Anhydrous tetrahydrofuran (200 milliliters) was added to the flask resulting in a clear solution. The solution was cooled to 0° C. using an ice bath. At this temperature, 125 milliliters of 3.0 M solution of CH3MgBr in ether (1.5 equivalents, 0.375 mole) was added slowly to the reaction flask using an addition funnel. The reaction mixture was allowed to slowly warm up to room temperature and was stirred for 48 hours. Thin layer chromatography (TLC) indicated the starting material was consumed. After 48 hours, the reaction was cooled down to −78° C. using an isopropanol/dry ice bath. At −78° C., 50 milliliters of 10.0 M solution of butyllithium in hexane (2.0 equivalents, 0.5 mole) was added to the reaction mixture with continuing stirring. An additional 400 milliliters of THF was added to ensure that reaction mixture was homogeneous and was stirring well. The reaction mixture was stirred at −78° C. for 3 hours. To the reaction mixture was added 170 milliliters of trimethylborate (6.0 equivalents, 1.5 mole) slowly using an addition funnel and the temperature was maintained at −78° C. While stirring, the reaction mixture was allowed to warm up to room temperature overnight The progress of the reaction was monitored by TLC. After cooling the reaction mixture to 0° C. (using an ice bath) the contents were transferred into a 5 liter beaker. The flask was rinsed with 100 milliliters of methanol and the washing was combined with the reaction mixture. To the reaction mixture, 500 milliliters of 1 N HCl was slowly added Subsequently, the pH of the mixture was brought to 4 by the addition of concentrated HCl. The reaction mixture was stirred for 3 hours. The organic solvent was removed by rotary evaporator. The concentrated aqueous content was extracted with ether (250 milliliter×6). The combined organic layer was washed with brine solution (200 milliliter×2) and was dried over MgSO4. After filtration, ether was removed by rotary evaporator. The residue was recrystallized from hot water yielding an off white solid. Yield: 22 grams (50%/).

reactant | 4-cyano-3-fluorophenyl bromide | 0.25 mole, 50 grams | C(#N)C1=C(C=C(C=C1)Br)F | C7H3BrFN
reactant | CH3MgBr | C[Mg+].[Br-]
reactant | ether | 0.375 mole, 1.5 equivalents | CCOCC | C4H10O
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 0.5 mole, 2.0 equivalents | CCCCCC | C6H14
reactant | trimethylborate | 1.5 mole, 170 milliliters, 6.0 equivalents | COB(OC)OC | C3H9BO3
solvent | THF | 400 milliliters | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 200 milliliters | O1CCCC1 | C4H8O
product | 4-acetyl-3-fluorophenylboronic acid | C(C)(=O)C1=C(C=C(C=C1)B(O)O)F | C8H8BFO3
